US07666868B2
60. (E)-Hydroxy-3-{1-[5-(1-methyl-1H-pyrazol-4-yl)-thiophene-2-sulfonyl]-1H-pyrrol-3-yl}-acrylamide
A mixture of 0.099 g (E)-3-{1-[5-(1-methyl-1H-pyrazol-4-yl)-thiophene-2-sulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide with 3.0 ml methanol and 6.0 ml 1M aqueous HCL is stirred at ambient temperature for 24 h. The suspension is filtered and washed with water and ethyl acetate. The title compound is dried in vacuo. By this method 0.037 g light pink solid are obtained. Melting point: 163-166° C.

reactant | (E)-3-{1-[5-(1-methyl-1H-pyrazol-4-yl)-thiophene-2-sulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.099 g | CN1N=CC(=C1)C1=CC=C(S1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C20H22N4O5S2
reactant | methanol | 3.0 ml | CO | CH4O
product | (E)-Hydroxy-3-{1-[5-(1-methyl-1H-pyrazol-4-yl)-thiophene-2-sulfonyl]-1H-pyrrol-3-yl}-acrylamide | 0.037 g | O\C(\C(=O)N)=C\C1=CN(C=C1)S(=O)(=O)C=1SC(=CC1)C=1C=NN(C1)C | C15H14N4O4S2
